US05187066
A solution of heptyl mercaptan (13.23 g, 0.105 mol) in tetrahydrofuran (THF) was added to a vigorously stirred suspension of sodium hydride (2.6 g, 0.105 mol) in THF (170 mL) over 45 minutes. The mixture was stirred under argon at room temperature for one hour. Chlorohexanol (13.44 g, 0.1 mol) in THF was added to the vigorously stirred mixture over a period of 30-45 minutes. The mixture was then stirred under argon at room temperature for 24 hours. Reaction completion was then checked by thin layer chromatography. The THF was then evaporated on a rotary evaporator. Water was then added to the mixture, and extraction was performed three times with ethyl acetate (EtOAc). The EtOAc extraction was washed with water. Then the EtOAc extracts were washed with saturated brine, and dried over Na2SO4. The Na2SO4 was filtered and evaporated to a yellow oil on a rotary evaporator. The product was then chromatographed with a Waters Prep 500 HPLC, using hexane-EtOAc. Appropriate fractions were combined and evaporated to a clear, light yellow oil. The oil was then distilled under vacuum, boiling point 85°-100° C./0.01 mm. to yield 7-thiatetradecan-1-ol (19.09 g, 82% yield).

reactant | heptyl mercaptan | 0.105 mol, 13.23 g | C(CCCCCC)S | C7H16S
reactant | sodium hydride | 0.105 mol, 2.6 g | [H-].[Na+]
reactant | Chlorohexanol | 0.1 mol, 13.44 g | ClC(CCCCC)O | C6H13ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 170 mL | O1CCCC1 | C4H8O
product | 7-thiatetradecan-1-ol | 19.09 g, 82% yield | C(CCCCCSCCCCCCC)O | C13H28OS
